US05747515
4-Methyl-5-oxazolyl Phenyl Ketone
Phenyllithium (1.8M solution in cyclohexane-diethylether, 11.7ml) in dry tetrahydrofuran was stirred and cooled to -70° C. under an atmosphere of dry nitrogen and N-methoxy-N-methyl-4-methyl-5-oxazolecarboxamide (3.0g) in dry tetrahydrofuran was added dropwise. After 30 minutes the mixture was allowed to warm to room temperature. Ethanol (5ml) was added followed by saturated aqueous sodium chloride. The mixture was extracted with dichloromethane and the material thus obtained was purified by flash chromatography to give the title compound. M.p. 84-86° C. 1H Nmr (CDCl3) 2.59 (3H, s), 7.5-7.68 (3H, m) and 7.96-8.06) (3H, m) ppm.

reactant | Phenyllithium | 1.8M, 11.7ml | C1(=CC=CC=C1)[Li]
reactant | N-methoxy-N-methyl-4-methyl-5-oxazolecarboxamide | 3.0g | CON(C(=O)C1=C(N=CO1)C)C | C7H10N2O3
reactant | Ethanol | 5ml | C(C)O | C2H6O
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Methyl-5-oxazolyl Phenyl Ketone | C1(=CC=CC=C1)C(=O)C1=C(N=CO1)C | C11H9NO2
